US03972886
5-Amino-3-n-butylthio-4-phenoxybenzoic acid
5-Amino-3-mercapto-4-phenoxybenzoic acid (5.22 g) is suspended in water (150 ml), 1 N sodium hydroxide is added until pH 8, and n-butyl iodide (7.4 g) is added to the resulting solution. The reaction mixture is stirred for 16 hours whereafter 5-amino-3-n-butylthio-4-phenxoybenzoic acid is precipitated by addition of 1 N hydrochloric acid until pH 2.5. After collection, recrystallization from aqueous ethanol, and drying in vacuo at 65°C, the compound is obtained with a melting point of 131°-132°C.

reactant | 5-Amino-3-mercapto-4-phenoxybenzoic acid | 5.22 g | NC=1C(=C(C=C(C(=O)O)C1)S)OC1=CC=CC=C1 | C13H11NO3S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | n-butyl iodide | 7.4 g | C(CCC)I | C4H9I
solvent | water | 150 ml | O | H2O
product | 5-Amino-3-n-butylthio-4-phenoxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)SCCCC)OC1=CC=CC=C1 | C17H19NO3S
